US08710100B2
A solution of potassium hydroxide (1.3 g, 22.2 mol) in water (20 ml) was added to a stirred solution of ethyl 2-ethoxy-3-(3-nitrophenyl)acrylate (5.6 g, 21.1 mmol) in methanol (100 ml) and the resulting mixture heated to reflux overnight. The methanol was then evaporated in vacuo and the residue diluted with water (150 ml). The solution was washed with dichloromethane (2×80 ml), filtered through a pad of celite and then acidified by the addition of 3M HCl to pH 3. The mixture was refrigerated for 18 h then the precipitated solid was collected by filtration, washed with water (3×30 ml) and dried in vacuo at 40° C. The resulting solid was recrystallized from ethyl acetate and heptane to give 2-ethoxy-3-(3-nitrophenyl)acrylic acid as a yellow solid (3.06 g, 61%).

reactant | potassium hydroxide | 22.2 mol, 1.3 g | [OH-].[K+]
reactant | ethyl 2-ethoxy-3-(3-nitrophenyl)acrylate | 21.1 mmol, 5.6 g | C(C)OC(C(=O)OCC)=CC1=CC(=CC=C1)[N+](=O)[O-] | C13H15NO5
solvent | water | 20 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-ethoxy-3-(3-nitrophenyl)acrylic acid | 3.06 g, 61% | C(C)OC(C(=O)O)=CC1=CC(=CC=C1)[N+](=O)[O-] | C11H11NO5
